US06544976B1
(2S)-2-(1-[3-(3-Pyridyl)-1-propyl]-1H-tetrazol-5-yl)azetidine
(2S)-1-(Benzyloxycarbonyl)-2-(1-[3-(3-pyridyl)-1-propyl]-1H-tetrazol-5-yl)azetidine from Reference Example 17 (125.3 mg, 0.331 mmol, 1.0 eq) was dissolved in ethanol (20 mL) and 10% Pd/C (49.9 mg, 0.047 mmol, 0.14 eq) was carefully added. The mixture was flushed with vacuum and nitrogen three times and stirred under a hydrogen atmosphere at about room temperature for about 26 hours. After removing the solid matter by filtration, the solvent was removed under vacuum to give 80.8 mg (quantitative yield) of the product as a colorless oil. 1H NMR (CDCl3) δ 2.18-3.24 (series of m, 7H); 3.46-4.68 (series of m, 5H); 7.19-7.33 (m, 1H); 7.51-7.63 (m, 1H); 8.38-8.57 (m, 2H).

reactant | (2S)-1-(Benzyloxycarbonyl)-2-(1-[3-(3-pyridyl)-1-propyl]-1H-tetrazol-5-yl)azetidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC1)C1=NN=NN1CCCC=1C=NC=CC1 | C20H22N6O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.047 mmol, 49.9 mg, 0.14 eq | [Pd] | Pd
product | (2S)-2-(1-[3-(3-Pyridyl)-1-propyl]-1H-tetrazol-5-yl)azetidine | 80.8 mg, quantitative yield | N1=CC(=CC=C1)CCCN1N=NN=C1[C@H]1NCC1 | C12H16N6
